US08541411B2
b) methyl 5-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-7-carboxylate
A mixture of methyl 2,3-diamino-5-(4-morpholinyl)benzoate (4.0 g) in CF3COOH (20 mL) was heated at reflux temperature for 8 h. When TLC analysis indicated consumption of starting material, the mixture was cooled to room temperature and the solvent was removed in-vacuo. The residue was diluted with aqueous NaHCO3 and extracted with EtOAc (250 mL×3). The combined organic layers were washed with brine (250 mL×2), dried over anhydrous Na2SO4. After filtration, the solvent was removed by rotary evaporator. The residue was then purified by silica gel chromatography eluted with EtOAc:petroleum ether=1:4 to afford the desired product as a pale solid. (4.3 g, 82.7%). 1H NMR (300 MHz, DMSO-d6): δ ppm 13.47 (s, 1H), 7.71 (s, 1H), 7.56 (s, 1H), 3.96 (s, 3H), 3.79 (t, 4H, J=4.5 Hz), 3.17 (s, 4H). LC-MS: m/e=330.1 [M+1]+.

reactant | methyl 2,3-diamino-5-(4-morpholinyl)benzoate | 4.0 g | NC1=C(C(=O)OC)C=C(C=C1N)N1CCOCC1 | C12H17N3O3
reactant | CF3COOH | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | methyl 5-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-7-carboxylate | N1(CCOCC1)C1=CC2=C(NC(=N2)C(F)(F)F)C(=C1)C(=O)OC | C14H14F3N3O3
